Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
bupropion / Nexium / tramadol
 
Attending: ___.
 
Chief Complaint:
choledocholithiasis with obstruction
 
Major Surgical or Invasive Procedure:
ERCP

 
History of Present Illness:
___ y/o man transferred ED to ED from ___ ED to 
here for ERCP evaluation.  He developed abdominal pain approx. 3 
weeks ago.  His stool became ___ colored, and urine dark over 
the past week.  Today in ___ found to be afeb and HD 
stable.  CT showed gallstones and choledocholithiasis without 
cbd dilation.  Bili 2.4.  ALT 70.  Lipase 217.  Given 1 gm ctx 
at ___ and transferred. 

Here in our ED found to be stable, no pain, no fever.  Labs sl 
improved.  No interventions. Admitted.

On arrival to ward he is upset over waiting in ED, wants answers 
about plan - all questions answered to his satisfaction. 

AF and VSS, NAD, sl jaundiced.  ROS Negative other than above, 
but without complaints on my examinatoin
 
Past Medical History:
RA on mtx and remidade
smoking - ongoing
mult dvts in past, on lifelong warfarin
GERD
Hx pancreas surgery - type unknown by pt., done at ___ approx. 
___ years ago, for removal of a pancreas lesion, benign, and 
splenectomy done at that time

 
Social History:
___
Family History:
denies
 
Physical Exam:
AF and VSS
NAD
Jaundiced 
MMM
no JVD
RRR, ___ hsm
CTA throughout, but bs diminished
Abd soft, nt, nd, bs present
No edema
No rash other than mild jaundice above
fully alert/oriented
moves all limbs symmetrically, observed so sit self up from 
supine independently

DISCHARGE EXAM
T 97.8 BP 127/57 HR 54 RR 18 O2 95% RA
GEN: Comfortable
ABD: Soft, nontender throughout, no RUQ tenderness
 
Pertinent Results:
___ 07:24PM URINE  MUCOUS-RARE
___ 07:24PM URINE  RBC-32* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-0
___ 07:24PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-LG
___ 07:24PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 07:24PM URINE  UHOLD-HOLD
___ 07:24PM URINE  HOURS-RANDOM
___ 08:05PM   ___ PTT-27.6 ___
___ 08:05PM   PLT COUNT-184
___ 08:05PM   NEUTS-49.3 ___ MONOS-15.6* EOS-4.9 
BASOS-0.6 NUC RBCS-0.3* IM ___ AbsNeut-3.50 AbsLymp-2.08 
AbsMono-1.11* AbsEos-0.35 AbsBaso-0.04
___ 08:05PM   WBC-7.1 RBC-4.18* HGB-14.1 HCT-39.8* MCV-95 
MCH-33.7* MCHC-35.4 RDW-17.1* RDWSD-57.7*
___ 08:05PM   ALBUMIN-3.1*
___ 08:05PM   LIPASE-39
___ 08:05PM   ALT(SGPT)-184* AST(SGOT)-82* ALK PHOS-187* 
TOT BILI-2.2*
___ 08:05PM   estGFR-Using this
___ 08:05PM   GLUCOSE-99 UREA N-14 CREAT-0.8 SODIUM-139 
POTASSIUM-4.6 CHLORIDE-107 TOTAL CO2-23 ANION ___

ERCP ___
Impression: •Deformed duodenum was noted. 
•The duodenoscope could not traverse the stictured duodenum. 
•The gastroscope was then used.
•A 12mm balloon was introduced for dilation and the diameter was 
progressively increased to ___ FR successfully.  
•The scout film was normal. 
•The bile duct was deeply cannulated with the sphincterotome. 
•Contrast was injected and there was brisk flow through the 
ducts. 
•Contrast extended to the entire biliary tree. The CBD was 10mm 
in diameter. 
•Two filling defects consistent with stones were identified in 
the CBD and CHD. 
•Opacification of the gallbladder was incomplete. The left and 
right hepatic ducts and all intrahepatic branches were normal. 
•A biliary sphincterotomy was made with a sphincterotome. 
•There was mild post-sphincterotomy oozing.
•An epinephrine injection was applied for hemostasis 
successfully.
•The biliary tree was swept with a 8.5 mm balloon starting at 
the bifurcation. 
•Two stones and sludge were removed. 
•The CBD and CHD were swept repeatedly until no further stones 
were seen. 
•The final occlusion cholangiogram showed no evidence of filling 
defects in the CBD. 
•Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically.
•Otherwise normal ercp to third part of the duodenum
 

Recommendations: •Continue with antibiotics x 5 days.
•No aspirin, Plavix, NSAIDS, Coumadin for 2 days.
•If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
•Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
•Follow-up with referring physician as previously scheduled
 
MICRO
Urine Culture: 
___ 7:24 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 ORGANISMS/ML.. 
                              SENSITIVITIES: MIC expressed in 
MCG/ML
___________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     2 S

DSICHARGE LABS
___ 05:35AM BLOOD WBC-7.3 RBC-3.73* Hgb-12.6* Hct-36.3* 
MCV-97 MCH-33.8* MCHC-34.7 RDW-16.6* RDWSD-58.0* Plt ___
___ 05:35AM BLOOD ALT-96* AST-38 AlkPhos-119 TotBili-1.2
___ 05:35AM BLOOD Calcium-8.0* Phos-3.4 Mg-1.___ y/o M with PMHx of RA, multiple DVTs on coumdin, GERD, who 
presented to OSH with evidence of biliary obstruction, 
transferred here for ERCP evaluation.

# Choledocholithiasis, Bile Duct Obstruction: LFT's downtrended 
with bowel rest, no evidence of infection, ERCP noted 2 stones 
removed with good flow, sphincterotomy performed with some 
oozing of blood, epinephrine injected to good effect. GI 
recommending holding warfarin for 48 hrs. Patient was instructed 
on how to inject Lovenox, given lovenox syringes to take home, 
confirmed that he has ___ clinic 5 min from house. 
He'll start lovenox and warfarin tomorrow (48 hrs post 
procedure), INR drawn ___. patient advised to speak 
with PCP about surgery referral for cholecystectomy. Cipro and 
flagyl x5 days. He was advised to call his gastroenterologist 
who is planning EGD ___, this DC summary faxed.

# UTI: Diagnosed as outpatient, urine growing enterococcus, will 
be covered with cipro outpatient.

# RA: No acute issues. 

# HLD: Statin restarted.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Warfarin 6 mg PO DAILY16 
2. Pravastatin 20 mg PO QPM 
3. Methotrexate 5 mg PO 1X/WEEK (FR) 
4. Infliximab 500 mg IV Q6WEEKS 
5. FoLIC Acid 1 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Ranitidine 150 mg PO DAILY 
8. Ascorbic Acid ___ mg PO BID 
9. Pantoprazole 40 mg PO Q24H 
10. Acetaminophen 1000 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Enoxaparin Sodium 80 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SC twice daily Disp #*28 
Syringe Refills:*0
2. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice daily 
Disp #*7 Tablet Refills:*0
3. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times daily 
Disp #*11 Tablet Refills:*0
4. Acetaminophen 1000 mg PO Q8H:PRN pain 
5. Ascorbic Acid ___ mg PO BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Infliximab 500 mg IV Q6WEEKS 
8. Methotrexate 5 mg PO 1X/WEEK (FR) 
9. Multivitamins 1 TAB PO DAILY 
10. Pantoprazole 40 mg PO Q24H 
11. Pravastatin 20 mg PO QPM 
12. Ranitidine 150 mg PO DAILY 
13. Warfarin 6 mg PO DAILY16 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to evaluate your abdominal pain which was 
caused by a gallstone blocking your bile duct. This was removed 
and bile is now flowing freely. 

The bile duct opening was snipped to widen it, and you had some 
bleeding which stopped. Because you had some bleeding, we are 
holding your warfarin until tomorrow. 

Tomorrow morning, please take your regular dose of warfarin. 
Please also take a shot of Lovenox in the morning and again in 
the evening. Continue twice daily Lovenox and once daily 
warfarin.

On ___, go to the ___ clinic to have your INR 
drawn. The clinic will manage your injections and warfarin 
dosing from there.

Finally, you have a urinary tract infection. The antibiotics you 
have will treat that.

In addition, please take the following medications:
CIPROFLOXACIN 500mg twice daily for the next 4 days including 
today
METRONIDAZOLE 500mg 3 times daily for the next 4 days including 
today
 
Followup Instructions:
___